US07449475B2
3-(Trifluoromethyl)pyrrolidin-3-ol (trifluoroacetate)
tert-Butyl 3-hydroxy-3-(trifluoromethyl)pyrrolidine-1-carboxylate (310 mg, 1.21 mmol) was treated with 20% CF3CO2H in CH2Cl2 for 4 h at room temperature. The volatiles were removed in vacuo to give the subtitled compound (330 mg).

reactant | tert-Butyl 3-hydroxy-3-(trifluoromethyl)pyrrolidine-1-carboxylate | 1.21 mmol, 310 mg | OC1(CN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C10H16F3NO3
reactant | CF3CO2H | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(Trifluoromethyl)pyrrolidin-3-ol (trifluoroacetate) | 330 mg | FC(C(=O)OC1(CNCC1)C(F)(F)F)(F)F | C7H7F6NO2
